US05493030
Trifluoroacetic anhydride (1.6 ml) in methylene chloride (3.6 ml) was added dropwise to dimethyl sulfoxide (1.05 ml) and CH2Cl2 (7.5 ml) under nitrogen over 5 minutes at -60° C. and stirred for 30 minutes. After addition of (±)-2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-1-cyclopentenyl-1-hydroxyethane (2 g) in methylene chloride (6 ml) over 15 minutes, the mixture was warmed to -40° C. over 1 hour. Triethylamine (10 ml) was added at -70° C., the cooling bath was removed, and after reaching ambient temperature the solution was diluted with ethyl acetate, washed twice with saturated aqueous potassium dihydrogen phosphate, brine, dried and evaporated. The solid residue was chromatographed on silica gel with 7:1 hexane, eluting with ethyl acetate to afford cyclopentenyl (4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-ylmethyl) methanone (1.65 g).

reactant | Trifluoroacetic anhydride | 1.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | dimethyl sulfoxide | 1.05 ml | CS(=O)C | C2H6OS
reactant | (±)-2-(4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-1-cyclopentenyl-1-hydroxyethane | 2 g | [Si](C)(C)(C(C)(C)C)OC1=C2C(OCC2=C(C(=C1CC(O)C1=CCCC1)OC)C)=O | C23H34O5Si
reactant | Triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3.6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 7.5 ml | C(Cl)Cl | CH2Cl2
product | cyclopentenyl (4-tert-butyldimethylsilyloxy-1,3-dihydro-6-methoxy-7-methyl-3-oxoisobenzofuran-5-ylmethyl) methanone | 1.65 g | C1(=CCCC1)C(=O)CC=1C(=C2C(OCC2=C(C1OC)C)=O)O[Si](C)(C)C(C)(C)C | C23H32O5Si
